### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Finsupp): add lemmas about `lsum` and submodule

### PR DESCRIPTION
**Pull request by BryceT233**
This is split from #34936 to make the review process easier.

It adds some lemmas to characterize the span of finitely supported singletons and relate the range of `Finsupp.lsum` to the pointwise scalar multiplication of submodules.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Finsupp/Span.lean [hunk 1]
```diff
@@ -119,3 +127,23 @@ theorem Submodule.mem_sSup_iff_exists_finset {S : Set (Submodule R M)} {m : M} :
...
+open scoped Pointwise in
+lemma Submodule.range_lsum_smul {R M N σ : Type*} [CommSemiring R] [AddCommMonoid M]
+    [AddCommMonoid N] [Module R M] [Module R N] (φ : M →ₗ[R] N) (f : σ → R) :
+    (lsum (S := R) (f · • φ)).range = Set.range f • φ.range := by
+  simp_rw [range_eq_map, ← span_single_eq_top, ← span_univ, map_span, set_smul_span]
+  congr 1
+  aesop (add simp Set.mem_smul)
+
+open scoped Pointwise in
+theorem Submodule.image_smul_top_eq_range_lsum {R M σ : Type*} [CommSemiring R] [AddCommGroup M]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Finsupp/Span.lean]:
```suggestion
theorem Submodule.image_smul_top_eq_range_lsum {R M σ : Type*} [CommSemiring R] [AddCommMonoid M]
```

File: Mathlib/LinearAlgebra/Finsupp/Span.lean [hunk 2]
```diff
@@ -119,3 +127,23 @@ theorem Submodule.mem_sSup_iff_exists_finset {S : Set (Submodule R M)} {m : M} :
...
+    [Module R M] (s : Set σ) (f : σ → R) : (f '' s • ⊤ : Submodule R M) =
+      (lsum (S := R) fun i : s ↦ f i • .id).range := by
+  simpa [Set.range_comp] using (range_lsum_smul (.id (R := R) (M := M)) (f ∘ (↑) : s → R)).symm
+
+open scoped Pointwise in
+theorem Submodule.smul_top_eq_range_lsum {R M : Type*} [CommSemiring R] [AddCommGroup M]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Finsupp/Span.lean]:
```suggestion
theorem Submodule.smul_top_eq_range_lsum {R M : Type*} [CommSemiring R] [AddCommMonoid M]
```

File: Mathlib/LinearAlgebra/Finsupp/Span.lean [hunk 3]
```diff
@@ -119,3 +127,23 @@ theorem Submodule.mem_sSup_iff_exists_finset {S : Set (Submodule R M)} {m : M} :
     rwa [iSup_subtype']
   · have : ⨆ (i) (_ : i ∈ S ∧ i ∈ s), i = ⨆ (i) (_ : i ∈ s), i := by convert rfl; grind
     simpa only [Finset.mem_preimage, iSup_subtype, iSup_and', this]
+
+open scoped Pointwise in
+lemma Submodule.range_lsum_smul {R M N σ : Type*} [CommSemiring R] [AddCommMonoid M]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Finsupp/Span.lean]: Please use `section`ing and `variable`s so that we don't need to redeclare the same variables in each lemma here.

**Review by ocfnash — COMMENTED** [review]
The import bump is a concern but probably something we'll just have to accept.

I suppose the only alternative is to create an entirely new file just for the three pointwise lemmas?

File: Mathlib/LinearAlgebra/Finsupp/Span.lean [hunk 4]
```diff
@@ -119,3 +127,27 @@ theorem Submodule.mem_sSup_iff_exists_finset {S : Set (Submodule R M)} {m : M} :
     rwa [iSup_subtype']
   · have : ⨆ (i) (_ : i ∈ S ∧ i ∈ s), i = ⨆ (i) (_ : i ∈ s), i := by convert rfl; grind
     simpa only [Finset.mem_preimage, iSup_subtype, iSup_and', this]
+
+section lsumSmulRange
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Finsupp/Span.lean]: We usually name sections like this based on their `variable`s rather than their content
```suggestion
section CommSemiring
```

File: Mathlib/LinearAlgebra/Finsupp/Span.lean [hunk 5]
```diff
@@ -119,3 +127,27 @@ theorem Submodule.mem_sSup_iff_exists_finset {S : Set (Submodule R M)} {m : M} :
...
+
+variable {R M N σ : Type*} [CommSemiring R] [AddCommMonoid M]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Finsupp/Span.lean:139]: You're shadowing variables here: if you check with `#where` you'll see that just above these `variable`s, you'll see that the `R`, `M` etc are still in scope. This can be quite confusing.

To fix this you should introduce a `section Semiring` above to contain those. If you like you can keep the `variable {R M N σ : Type*}` outside and only declare the typeclasses inside each section. You may also need to move the `open Finsupp` outside the section.

**Comment by ocfnash** [comment]
Thanks!

bors merge
